US09340538B2
Step A: Ethyl 6-methyl-4-(2-nitrophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
A mixture of 2-nitrobenzaldehyde (10 g, 66 mmol), thiazole-2-carboximidamide hydrochloride (10.8 g, 66 mmol), ethyl 3-oxobutanoate (8.6 g, 66 mmol) and sodium acetate (5.5 g, 66 mmol) in ethanol (250 mL) was stirred at 88° C. for 16 hours, then cooled to 25° C. The resulting mixture was filtered and the filtrate was concentrated in vacuo. The residue was purified by a silica gel column chromatography (PETROLEUM ETHER/EtOAc (V/V)=3/1) to give the title compound as a light yellow solid (12 g, 48%). The compound was characterized by the following spectroscopic data:

reactant | 2-nitrobenzaldehyde | 66 mmol, 10 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | thiazole-2-carboximidamide hydrochloride | 66 mmol, 10.8 g | Cl.S1C(=NC=C1)C(N)=N
reactant | ethyl 3-oxobutanoate | 66 mmol, 8.6 g | O=C(CC(=O)OCC)C | C6H10O3
reactant | sodium acetate | 66 mmol, 5.5 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | Ethyl 6-methyl-4-(2-nitrophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 12 g, 48% | CC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC | C17H16N4O4S
